US08044213B2
A mixture of 0.374 g (2 mmole) of 5-fluoro-2-methoxy-4-nitro-phenol, 0.439 g (2.10 mmole) of 2-(2-bromo-ethoxy)-tetrahydro-pyran, 0.828 g (6.0 mmole) of potassium carbonate and 5 mL of dimethylformamide was heated at 80 degrees for 4 hours. The cooled mixture was poured into 50 mL of dilute ammonium chloride solution and extracted three times with 25 mL of ethyl acetate. The combined organic extracts were washed three times with 25 mL of water, once with 25 mL of brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with ethyl acetate-hexanes (gradient 20:80-30:70) to give 0.370 g of 2-[2-(5-fluoro-2-methoxy-4-nitro-phenoxy)-ethoxy]-tetrahydro-pyran (IV.44) as a yellow oil.

reactant | 5-fluoro-2-methoxy-4-nitro-phenol | 2 mmole, 0.374 g | FC=1C(=CC(=C(C1)O)OC)[N+](=O)[O-] | C7H6FNO4
reactant | 2-(2-bromo-ethoxy)-tetrahydro-pyran | 2.10 mmole, 0.439 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 6.0 mmole, 0.828 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-[2-(5-fluoro-2-methoxy-4-nitro-phenoxy)-ethoxy]-tetrahydro-pyran | 0.370 g | FC=1C(=CC(=C(OCCOC2OCCCC2)C1)OC)[N+](=O)[O-] | C14H18FNO6
